US07652055B2
b) 3-(4-Chloro-phenyl)-propionic acid ethyl ester
To a solution of (E)-3-(4-chloro-phenyl)-acrylic acid ethyl ester (0.37 g, 1.73 mmol) in ethyl acetate (10 ml) were added palladium on activated charcoal (18 mg) and zinc bromide (80 mg, 0.35 mmol). The reaction vessel was then pressurized with hydrogen gas to a pressure of 1 atmosphere and the mixture was stirred for 18 h. The catalyst was then removed by filtration, washing with ethyl acetate, and the filtrate was concentrated in vacuo to yield a colourless oil which was used for the next step without further purification; MS (ISP): 214.2, 212.1 ([M+H]+.).

reactant | (E)-3-(4-chloro-phenyl)-acrylic acid ethyl ester | 1.73 mmol, 0.37 g | C(C)OC(\C=C\C1=CC=C(C=C1)Cl)=O | C11H11ClO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated charcoal | 18 mg | [Pd] | Pd
catalyst | zinc bromide | 0.35 mmol, 80 mg | [Br-].[Zn+2].[Br-]
product | 3-(4-Chloro-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)Cl)=O | C11H13ClO2
